US08389249B2
Culture of L-Lysine-Producing Strain in which fad Genes were Amplified
Glycerol stocks of the strains obtained in Example 3, in which fad genes were amplified, were thawed. And, 100 μL of each was evenly spread on an LB agar medium plate containing 50 mg/L ampicillin and 20 mg/L streptomycin and incubated at 37° C. for 24 hours. About ½ volume of bacterial cells on the obtained plate were inoculated into 5 mL of fermentation medium described below containing 50 mg/L ampicillin and 20 mg/L streptomycin in a test tube manufactured by AGC TECHNO GLASS CO., LTD. (diameter×length×thickness (mm)=25×200×1.2), and cultured using a reciprocal shaking culture apparatus at 37° C. for 72 hours. As a carbon source in a main culture, sodium oleate added with polyoxyethylene sorbitan monooleic acid ester (Tween 80: manufactured by NACALAI TESQUE, INC.) as an emulsification promoter to a final concentration of 0.5% (w/v) was used. As for a total amount of carbon sources, sodium oleate was 10 g/L. The medium composition used for the culture is shown below.

reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | streptomycin | C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O | C21H39N7O12
reactant | sodium oleate | C(CCCCCCC\C=C/CCCCCCCC)(=O)[O-].[Na+]
solvent | Glycerol | OCC(O)CO | C3H8O3
product | L-Lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
